US04960897
Preparation of 2-bromo-6-(1-chloromethylvinyl)pyridine (Compound No. I-6)
A mixture of 3.60 g of 2-bromo-6-isopropenylpyridine, 2.91 g of N-chlorosuccinimide and 8 ml of benzene was stirred at 80° C. for 5 hours. After the reaction mixture was cooled to room temperature, n-hexane was added thereto to remove the insoluble matter through filtration. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluted with n-hexane then n-hexane - ethyl acetate 20:1) to obtain 1.50 g of the objective compound.

reactant | 2-bromo-6-isopropenylpyridine | 3.60 g | BrC1=NC(=CC=C1)C(=C)C | C8H8BrN
reactant | N-chlorosuccinimide | 2.91 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzene | 8 ml | C1=CC=CC=C1 | C6H6
solvent | n-hexane | CCCCCC | C6H14
product | 2-bromo-6-(1-chloromethylvinyl)pyridine | 1.50 g | BrC1=NC(=CC=C1)C(=C)CCl | C8H7BrClN
